US04704459
In 4 ml of ethanol was suspended 200 mg of ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]-3-(N,N-dimethylamino)acrylate, and 4 ml of 6N hydrochloric acid was added thereto, after which the resulting mixture was subjected to reaction under reflux for 3.5 hours. Subsequently, the solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of ethanol, after which crystals were collected by filtration to obtain 145 mg (yield 85.4%) of 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride.

reactant | ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]-3-(N,N-dimethylamino)acrylate | 200 mg | C(C)(=O)NC1CN(CC1)C1=NC(=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C1F)NC1=C(C=C(C=C1)F)F | C25H28F3N5O4
reactant | hydrochloric acid | 6N, 4 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride | 145 mg, yield 85.4% | Cl.NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)O)=O)F | InChI=1S/C19H15F3N4O3.ClH/c20-9-1-2-15(13(21)5-9)26-8-12(19(28)29)16(27)11-6-14(22)18(24-17(11)26)25-4-3-10(23)7-25;/h1-2,5-6,8,10H,3-4,7,23H2,(H,28,29);1H
